US05075445
A suspension of 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine (0.31 g, 1.0 mmol) in a solution of sodium benzoxide (1 M in benzyl alcohol, 2 ml) was stirred at 70° for 1 hour. The resulting solution was allowed to cool, hydrochloric acid (5 M, 0.4 ml) and water (0.6 ml) were added and the solution was stirred for 1 hour at room temperature. The solution was then partitioned between chloroform and water. The aqueous layer was neutralised with aqueous sodium bicarbonate and extracted with chloroform. The combined organic layers were washed with aqueous sodium bicarbonate, dried (magnesium sulphate) and the solvent was removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol mixtures (10:1, 5:1) to afford 2-amino-6-benzyloxy-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine as a white crystalline solid (0.17 g, 50%), m.p. 146°-147.5° C.; λmax (EtOH) 212 (32,300), 250 (8,380), and 283 (10,100) nm; νmax (KBr) 3340, 3220, 1655, 1605, and 1580 cm-1 ; δH [(CD3)2SO] 1.3-1.6 (1 H, m, 3'-H), 1.72 (2 H, q, J 7 Hz, 2'-H), 3.38 (4 H, AB part of ABX, 2×4'-H), 4.03 (2 H, t, J 7 Hz, 1'-H), 4.36 (2 H, t, J 5.5 Hz, D2O exchangeable, 2×OH), 5.47 (2 H, s, PhCH2), 6.37 (2 H, s, D2O exchangeable, 2-NH2), 7.3-7.6 (5 H, m, C6H5), and 7.84 (1 H, s, 8-H); (Found: C, 58.89; H, 6.12; N, 19.87%; C17H21N5O3 requires C, 59.46; H, 6.16; N, 20.40%).

reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1,3-dioxan-5-yl)ethyl]purine | 1.0 mmol, 0.31 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
reactant | sodium | [Na] | Na
reactant | hydrochloric acid | 5 M, 0.4 ml | Cl | ClH
reactant | water | 0.6 ml | O | H2O
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 2-amino-6-benzyloxy-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine | 0.17 g, 50% | NC1=NC(=C2N=CN(C2=N1)CCC(CO)CO)OCC1=CC=CC=C1 | C17H21N5O3
